US09278981B2
Stage 244.1 3-Bromo-N-(4-(chlorodifluoromethoxy)phenyl)-4-((3S,4S)-3,4-dihydroxypyrrolidin-1-yl)benzamide
The title compound was prepared in an analogous fashion to that described in Stage 243.1 (20 h at 90° C.+3 h at 105° C.) using 3-bromo-N-(4-(chlorodifluoromethoxy)phenyl)-4-fluorobenzamide and (3S,4S)-pyrrolidine-3,4-diol to afford a white amorphous solid. UPLC-MS (Condition 3) tR=1.01 min, m/z=476.8 [M+H]+.

reactant | 3-bromo-N-(4-(chlorodifluoromethoxy)phenyl)-4-fluorobenzamide | BrC=1C=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)Cl)C=CC1F | C14H8BrClF3NO2
reactant | (3S,4S)-pyrrolidine-3,4-diol | N1C[C@@H]([C@H](C1)O)O | C4H9NO2
product | 3-Bromo-N-(4-(chlorodifluoromethoxy)phenyl)-4-((3S,4S)-3,4-dihydroxypyrrolidin-1-yl)benzamide | BrC=1C=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)Cl)C=CC1N1C[C@@H]([C@H](C1)O)O | C18H16BrClF2N2O4
